US08426587B2
Preparation of (Z)-tert-butyl 4-(4-(cyclohexylcarbamoyl)phenoxy)-3-fluoro-2-methylbut-2-enylcarbamate
This compound was synthesized from tert-butyl [(2Z)-4-bromo-3-fluoro-2-methylbut-2-en-1-yl]carbamate and N-cyclohexyl-4-hydroxybenzamide following procedure F and was obtained as a colorless solid; 1H-NMR (400 MHz, CDCl3): δppm: 1.14-1.30 (3H, m), 1.35-1.49 (2H, m), 1.44 (9H, s), 1.60-1.70 (1H, m), 1.70-1.79 (2H, m), 1.76 (3H, d, J 3.2 Hz), 1.98-2.04 (2H, m), 3.90 (2H, d, J 5.3 Hz), 3.96 (1H, m), 4.59 (1H, br s), 4.63 (2H, d, J 21.2 Hz), 5.86 (1H, d, J 7.9 Hz), 6.93 (2H, d, J 8.7 Hz), 7.71 (2H, d, J 8.7 Hz).

reactant | tert-butyl [(2Z)-4-bromo-3-fluoro-2-methylbut-2-en-1-yl]carbamate | BrC/C(=C(/CNC(OC(C)(C)C)=O)\C)/F | C10H17BrFNO2
reactant | N-cyclohexyl-4-hydroxybenzamide | C1(CCCCC1)NC(C1=CC=C(C=C1)O)=O | C13H17NO2
product | (Z)-tert-butyl 4-(4-(cyclohexylcarbamoyl)phenoxy)-3-fluoro-2-methylbut-2-enylcarbamate | C1(CCCCC1)NC(=O)C1=CC=C(OC/C(=C(/CNC(OC(C)(C)C)=O)\C)/F)C=C1 | C23H33FN2O4
